US07425568B2
2-(3-Bromophenyl)-6-hydroxychroman-4-one was prepared as described for 2-(3-fluorophenyl)-6-hydroxychroman-4one in Example 9(a) starting from 3.0 g of 2′,5′-dihydroxyacetophenone and 2.3 ml of 3-bromobenzaldehyde. The product was recrystallised from acetic acid. 1H NMR (300 MHz, d6-DMSO) δ: 9.41 (s, 1H), 7.50 (m, 1H), 7.59-7.53 (m, 2H), 7.39 (m, 1H), 7.12 (d, 1H, J 2.9 Hz), 7.05 (dd, 1H, J 8.8, 2.9 Hz), 6.98 (d, 1H, J 8.8 Hz), 5.57 (dd, 1H, J 13.0, 2.9 Hz), 3.12 (dd, 1H, J −16.9, 13.0 Hz), 2.81 (dd, 1H, J −16.9, 2.9 Hz).

reactant | 2-(3-fluorophenyl)-6-hydroxychroman-4one | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)=O)O | C15H11FO3
reactant | 2′,5′-dihydroxyacetophenone | 3.0 g | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 3-bromobenzaldehyde | 2.3 ml | BrC=1C=C(C=O)C=CC1 | C7H5BrO
product | 2-(3-Bromophenyl)-6-hydroxychroman-4-one | BrC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)=O)O | C15H11BrO3
